US03933811
One gram of 3-morpholino-N-morpholinomethyl-2-(2-pyridyl)thiopropanamide in ethanol is treated with ethereal hydrogen chloride and the solvents are removed under reduced pressure to give 3-morpholino-N-morpholinomethyl-2-(2-pyridyl)thiopropanamide trihydrochloride.

reactant | 3-morpholino-N-morpholinomethyl-2-(2-pyridyl)thiopropanamide | One gram | O1CCN(CC1)CC(C(=S)NCN1CCOCC1)C1=NC=CC=C1 | C17H26N4O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-morpholino-N-morpholinomethyl-2-(2-pyridyl)thiopropanamide trihydrochloride | Cl.Cl.Cl.O1CCN(CC1)CC(C(=S)NCN1CCOCC1)C1=NC=CC=C1 | InChI=1S/C17H26N4O2S.3ClH/c24-17(19-14-21-7-11-23-12-8-21)15(16-3-1-2-4-18-16)13-20-5-9-22-10-6-20;;;/h1-4,15H,5-14H2,(H,19,24);3*1H
